US05134123
(S)-α-[(S)-α-[(t-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3R)-1-(cyclohexylmethyl)-2,3-dihydroxy-3-phenylpropyl]imidazole-4-propionamide;
(S)-α-[(S)-α-[(t-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3RS)-1-(cyclohexylmethyl)-2,3-dihydroxy-4,4-dimethylpentyl]imidazole-4-propionamide; (S)-α-[(S)-α-[(t-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-2,3-dihydroxy-4-methylpentyl]imidazole-4-propionamide; (S)-α-[(S)-α-[(t-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3S)-3-cyclohexyl-1-(cyclohexylmethyl)-2,3-dihydroxypropyl]imidazole-4-propionamide.

reactant | (S)-α-[(S)-α-[(t-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3RS)-1-(cyclohexylmethyl)-2,3-dihydroxy-4,4-dimethylpentyl]imidazole-4-propionamide | C(C)(C)(C)S(=O)(=O)C[C@H](C(=O)N[C@H](C(=O)N[C@H]([C@H](C(C(C)(C)C)O)O)CC1CCCCC1)CC=1N=CNC1)CC1=CC=CC=C1 | C34H54N4O6S
reactant | (S)-α-[(S)-α-[(t-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-2,3-dihydroxy-4-methylpentyl]imidazole-4-propionamide | C(C)(C)(C)S(=O)(=O)C[C@H](C(=O)N[C@H](C(=O)N[C@H]([C@H]([C@H](C(C)C)O)O)CC1CCCCC1)CC=1N=CNC1)CC1=CC=CC=C1 | C33H52N4O6S
reactant | (S)-α-[(S)-α-[(t-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3S)-3-cyclohexyl-1-(cyclohexylmethyl)-2,3-dihydroxypropyl]imidazole-4-propionamide | C(C)(C)(C)S(=O)(=O)C[C@H](C(=O)N[C@H](C(=O)N[C@H]([C@H]([C@@H](O)C1CCCCC1)O)CC1CCCCC1)CC=1N=CNC1)CC1=CC=CC=C1 | C36H56N4O6S
product | (S)-α-[(S)-α-[(t-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3R)-1-(cyclohexylmethyl)-2,3-dihydroxy-3-phenylpropyl]imidazole-4-propionamide | C(C)(C)(C)S(=O)(=O)C[C@H](C(=O)N[C@H](C(=O)N[C@H]([C@H]([C@@H](C1=CC=CC=C1)O)O)CC1CCCCC1)CC=1N=CNC1)CC1=CC=CC=C1 | C36H50N4O6S
